Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],3.4452327190199994
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],1.4290225331600002
[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],1.66188807873
[C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.26386378365
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-3.79596588292
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])[H:4],4.0337031622
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]1[O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-1.70326008154
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.09863788029
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],6.37627763622
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:8],1.82229572833
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10].[O:11][H:12],2.8546125515200003
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:10].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:11][H:12],1.26675187659
[C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.07098982547
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.28347040318
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8],4.51203674382
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[H:9],3.6659044663
[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-1.72647437122
[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.95315913759
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],5.03914619719
[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.51982952758
[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],-7.9832051397
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],-0.589691230869
[C:3]#[C:4][O:5][C:6]([H:7])[O:8][H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[O:8][H:9],-7.39955019485
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.87387884735
[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])\[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.19123997446
[O:12][H:13].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.0371178628300015
